US08669361B2
Reaction of 5-chloro-1-methyl-4-nitro-1H-pyrazole and 4-cyanopiperidine gave 1-(1-methyl-4-nitro-1H-pyrazol-5-yl)piperidine-4-carbonitrile as an off-white solid (0.23 g, 79%). 1H NMR (400 MHz, CDCl3) δ 8.03 (s, 1H), 3.78 (s, 3H), 3.35-3.19 (m, 4H), 2.88-2.79 (m, 1H), 2.19-2.11 (m, 2H), 2.06-1.95 (m, 2H)

reactant | 5-chloro-1-methyl-4-nitro-1H-pyrazole | ClC1=C(C=NN1C)[N+](=O)[O-] | C4H4ClN3O2
reactant | 4-cyanopiperidine | C(#N)C1CCNCC1 | C6H10N2
product | 1-(1-methyl-4-nitro-1H-pyrazol-5-yl)piperidine-4-carbonitrile | 0.23 g, 79% | CN1N=CC(=C1N1CCC(CC1)C#N)[N+](=O)[O-] | C10H13N5O2
